US07109229B2
(c) (1-Methyl-5-fluoro-1H-indol-7-yl)-oxo-acetic acid methyl ester
A solution of 1-methyl-5-fluoro-7-bromoindole (8.3 g, 36.4 mmol) in THF (250 mL) was cooled to −78° C. and a solution of tert-butyl lithium in pentanes (1.7 M, 47 mL, 80.1 mmol) added dropwise over 30 min. After 30 min at −78° C., the mixture was treated with dimethyl oxalate (10.75 g, 91 mmol) in one portion. After 15 min, the mixture was allowed to warm to room temperature and stirred 4 h. The reaction mixture was quenched with water, extracted with ethyl acetate and the extract washed with brine, dried (Na2SO4) and concentrated. Flash chromatography (EtOAc/hexanes) afforded the title compound (4.2 g, 49%). 1H NMR (400 MHz, CDCl3) 3.83(s, 3H), 4.01 (s, 3H), 6.56 (d, J=3.13 Hz, 1H), 7.15 (d, J=3.13 Hz, 1H), 7.35 (dd, J1=2.0 Hz, J2=9.4 Hz, 1H), 7.57 (dd, J1=2.34 Hz, J2=8.21 Hz, 1H); MS (ES, m/z): C12H10FNO3: 235.22 (M++1).

reactant | 1-methyl-5-fluoro-7-bromoindole | 36.4 mmol, 8.3 g | CN1C=CC2=CC(=CC(=C12)Br)F | C9H7BrFN
reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | dimethyl oxalate | 91 mmol, 10.75 g | C(C(=O)OC)(=O)OC | C4H6O4
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (1-Methyl-5-fluoro-1H-indol-7-yl)-oxo-acetic acid methyl ester | 4.2 g, 49% | COC(C(=O)C=1C=C(C=C2C=CN(C12)C)F)=O | C12H10FNO3
